US07176322B2
1-ethylcyclopent[b]indole-5-carboxaldehyde
A solution of 7-cyano-4-ethyl-1,2,3,4-tetrahydrocyclopent[b]indole (0.28 g, 1.33 mmol) in dichloromethane (15 mL) was cooled in an ice-bath then treated with DIBAL-H (0.189 g, 1.33 mmol). The reaction was then allowed to reach room temperature and was stirred for 15 hours before diluting with dichloromethane and pouring into a saturated solution of sodium potassium tartrate. The organic layer was separated then washed with brine. The crude product was purified by column chromatography eluting with dichloromethane, to afford 0.2 g of title compound.

reactant | 7-cyano-4-ethyl-1,2,3,4-tetrahydrocyclopent[b]indole | 1.33 mmol, 0.28 g | C(#N)C1=CC=2C3=C(N(C2C=C1)CC)CCC3 | C14H14N2
reactant | DIBAL-H | 1.33 mmol, 0.189 g | CC(C)C[AlH]CC(C)C
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-ethylcyclopent[b]indole-5-carboxaldehyde | 0.2 g | C(C)C1=CC=C2N=C3C(=CC=CC3=C21)C=O | C14H11NO
